US07179818B2
(Method 1B) A mixture of 1.26 g of 1-azabicyclo[2.2.2]octan-3-one and 0.93 g of aniline and 4.4 mL of Ti(/PrO)4 was stirred overnight at room temperature. The reaction mixture was diluted with EtOH and then NaBH4 pellets (0.8 g) were added until reaction was judged complete by TLC. The solvent was evaporated in vacuo. The residue was diluted with 3N NaOH, water and EtOAc and the mixture was filtered through dicalite. The filter pad was washed with additional EtOAc. The filtrate was transferred to a separatory funnel and the aqueous layer was extracted with an additional portion of EtOAc. The combined organic extracts were washed with water and then brine and then dried over K2CO3. The solution was filtered and the solvent was evaporated in vacuo. The residue was chromatographed on silica (90/7.5/2.5 CHCl3/MeOH/7.0 M NH3 in MeOH) to give N-Phenyl-1-azabicyclo[2.2.2]octan-3-amine (1.5 g, 75%) as a white solid. 1H NMR (CDCl3) is consistent with the one from Method 1A.

reactant | 1-azabicyclo[2.2.2]octan-3-one | 1.26 g | N12CC(C(CC1)CC2)=O | C7H11NO
reactant | aniline | 0.93 g | NC1=CC=CC=C1 | C6H7N
reactant | NaBH4 | [BH4-].[Na+]
solvent | EtOH | CCO | C2H6O
product | N-Phenyl-1-azabicyclo[2.2.2]octan-3-amine | 1.5 g, 75% | C1(=CC=CC=C1)NC1CN2CCC1CC2 | C13H18N2
